US05908840
3-Quinolinylboronic acid
A solution of 3-bromoquinoline (14.6 g (0.07 mole)) in 50 ml of diethylether was added at -40° under argon to a solution of 2 M n-BuLi (37.5 ml (0.075 mole) (in cyclohexane)) in 50 ml Et2O. The reaction mixture was stirred 15 minutes and 0.075 mole (7.8 g, 8.5 ml) trimethylborate was added rapidly over 2 minutes. The mixture was stirred 15 minutes at 0° C. and 4 ml of H2O was added and stirring continued for 30 minutes. The volatiles were evaporated in vacuo to a yellow tar resi-due. The residue was dissolved in 150 ml ethyl alcohol to which was added 4 ml of acetic acid and reflux-ed for 45 minutes. The volatiles were evaporated in vacuo to a yellow oily residue. The residue was stirred with 40 ml of ether to give a yellow solid which was filtered, washed with ether and dried to give 11.14 g of a solid. The solid was stirred in 100 ml of water and filtered to give 3.26 g of a solid after air drying. The crude product was used directly in the next step.

reactant | 3-bromoquinoline | 0.07 mole, 14.6 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | n-BuLi | 0.075 mole, 2 M, 37.5 ml | [Li]CCCC
reactant | trimethylborate | 0.075 mole, 8.5 ml, 7.8 g | COB(OC)OC | C3H9BO3
reactant | H2O | 4 ml | O | H2O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | Et2O | 50 ml | CCOCC | C4H10O
product | 3-Quinolinylboronic acid | 11.14 g | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
